US03979430
11.0 Gm. of 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)propionamide is refluxed for 2 hours in 70 ml. of acetic acid and 105 ml. of concentrated hydrochloric acid. The mixture is cooled and diluted, then extracted with ether. The ethereal solution is extracted with aqueous sodium carbonate and the extract acidified and extracted with ethyl acetate to afford a 70% yield of 2-(5H-dibenzo[a,d] cyclohepten-5-on-2-yl)propionic acid., m.p. (chloroform-hexane) 138°-139°C.; m.p. (acetone-hexane) 113°-115°C. Use of 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)acetamide gives a similar yield of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)acetic acid, m.p. (acetone-hexane) 148°-149.5°C.

reactant | 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)propionamide | C1OC2(C3=C(C=CC4=C2C=CC(=C4)C(C(=O)N)C)C=CC=C3)OC1 | C20H19NO3
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(5H-dibenzo[a,d] cyclohepten-5-on-2-yl)propionic acid | 70% yield | C1=C(C=CC=2C(C3=C(C=CC21)C=CC=C3)=O)C(C(=O)O)C | C18H14O3
